US06670376B1
To a mixture of 2-bromo-4-nitroanisole (5.0 g, 21.5 mmol, Lancaster), ethanol (25 mL) and water (25 mL), was added powdered iron (4.8 g, 86 mmol) and 12 N HCl (0.5 mL). The solution was heated at reflux for 20 minutes. 1N NaOH (10 mL) was added and the reaction mixture was filtered through a pad of celite while still hot, and then rinsed with ethanol (2×50 mL). The ethanol was removed under reduced pressure and the residue extracted with dichloromethane (2×100 mL). The organic extracts were dried (Na2SO4) and concentrated. The crude product was purified by flash chromatography on silica gel (75 g) eluting with dichloromethane, to give 4-amino-2-bromoanisole as a light tan solid.

reactant | 2-bromo-4-nitroanisole | 21.5 mmol, 5.0 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | HCl | 12 N, 0.5 mL | Cl | ClH
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
catalyst | iron | 86 mmol, 4.8 g | [Fe] | Fe
solvent | water | 25 mL | O | H2O
product | 4-amino-2-bromoanisole | NC1=CC(=C(C=C1)OC)Br | C7H8BrNO
